US04406841
To 45 ml of water 15 g of 3,5-dichloro-2,6-difluorobenzonitrile was added and 0.05 g of palladium-carbon catalyst and 17.5 g of triethylamine were added to it. The reaction was carried out in an autoclave at 120° C. for 7 hours while introducing hydrogen gas into it so that the pressure of hydrogen gas in the reaction system was kept at 30 kg/cm2. In the same manner as in the process of the reduction step of Example 1, the reaction mixture was refined to obtain 9.6 g of 2,6-difluorobenzonitrile (yield: 95.8%) and 15.6 g of triethylamine was recovered (recovery rate: 89.1%).

reactant | water | 45 ml, 15 g | O | H2O
reactant | 3,5-dichloro-2,6-difluorobenzonitrile | ClC=1C(=C(C#N)C(=C(C1)Cl)F)F | C7HCl2F2N
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 0.05 g | [C].[Pd]
solvent | triethylamine | 15.6 g | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 17.5 g | C(C)N(CC)CC | C6H15N
product | 2,6-difluorobenzonitrile | 9.6 g, yield: 95.8% | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
